US04410529
3.2 g (30.6 millimoles) of cyclopropanecarboxylic acid chloride, dissolved in 20 ml of absolute tetrahydrofuran, are added dropwise, at room temperature, to a stirred solution of 5.0 g (25.9 millimoles) of 3-(p-aminobenzoyl)-propionic acid in 100 ml of absolute tetrahydrofuran; a precipitate forms. The reaction mixture is then kept for 7 hours under reflux. The product is filtered off at 10° C., washed with water and dried under reduced pressure at 50° C. 5.1 g (75% of theory) of 3-(p-cyclopropylcarbonylaminobenzoyl)-propionic acid are obtained as yellow crystals, of melting point 229°-230° C. (after recrystallization from ethanol/water).

reactant | cyclopropanecarboxylic acid chloride | 30.6 millimoles, 3.2 g | C1(CC1)C(=O)Cl | C4H5ClO
reactant | 3-(p-aminobenzoyl)-propionic acid | 25.9 millimoles, 5.0 g | NC1=CC=C(C(=O)CCC(=O)O)C=C1 | C10H11NO3
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 3-(p-cyclopropylcarbonylaminobenzoyl)-propionic acid | 5.1 g, 75% | C1(CC1)C(=O)NC1=CC=C(C(=O)CCC(=O)O)C=C1 | C14H15NO4
